US08293768B2
Synthesis of 1-(4-methyl-5-(oxazol-5-yl)thiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)-imidazolidin-2-one
To a solution of 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carbaldehyde (0.32 g, 0.86 mmol) in methanol (20 mL) was added potassium carbonate (0.30 g, 2.17 mmol) and tosylmethyl isocyanide (0.23 g, 1.17 mmol). The reaction mixture was stirred at ambient temperature for 1 h, heated to reflux for 1 h, and then cooled to ambient temperature. The mixture was diluted with ethyl acetate, washed with water and brine. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography to afford the title compound as a colorless solid in 47% yield (0.32 g): mp 160-162° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.85 (s, 1H), 7.59 (d, J=8.1 Hz, 2H), 7.40 (d, J=8.1 Hz, 2H), 7.07 (s, 1H), 4.53 (s, 2H), 4.12-4.06 (m, 2H), 3.49-3.44 (m, 2H), 2.43 (s, 3H); 1H NMR (75 MHz, CDCl3) δ 157.5, 155.6, 149.8, 145.4, 145.1, 139.8, 130.5, 128.5, 125.9, 122.4, 122.1, 111.7, 47.6, 42.1, 42.0, 16.7; MS (ES+) m/z 409.1 (M+1).

reactant | 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carbaldehyde | 0.86 mmol, 0.32 g | CC=1N=C(SC1C=O)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C16H14F3N3O2S
reactant | potassium carbonate | 2.17 mmol, 0.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | tosylmethyl isocyanide | 1.17 mmol, 0.23 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
solvent | methanol | 20 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-methyl-5-(oxazol-5-yl)thiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)-imidazolidin-2-one | 47% yield | CC=1N=C(SC1C1=CN=CO1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C18H15F3N4O2S
